US05059596
Step B: 2-ethylthio-3,3,4,4-tetramethyl-1-azetine
To a solution of 10.5 ml of triethyloxonium tetrafluoroborate as a 1M solution in CH2Cl2, a solution of 1 g (7 mmol) of tetramethylazetidinethione in 3 ml of dry CH2Cl2 was added under an inert atmosphere. The mixture was stirred at room temperature for 1 hour and then at reflux for 1 hour. After cooling, it was added dropwise to 10 ml of a 50% K2CO3 solution at -10° C. After filtration, the organic phase was separated out and immediately dried over MgSO4. Filtration was followed by removal of the solvent under vacuum and the oily residue was subjected to flash silica chromatography (pet. ether: ethyl acetate; 8:2) to obtain the product as a colorless oil.

reactant | triethyloxonium tetrafluoroborate | 10.5 ml | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | tetramethylazetidinethione | 7 mmol, 1 g | CC1(C(C(N1)=S)(C)C)C | C7H13NS
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-ethylthio-3,3,4,4-tetramethyl-1-azetine | C(C)SC1=NC(C1(C)C)(C)C | C9H17NS
